US04179505
A mixture of 4.64 parts of 4-[4-(diphenylmethyl)-1-piperazinylmethyl]-N1 -methyl-1,2-benzenediamine and 1.2 parts of urea is stirred and heated for 1.50 hours at 190° C. The reaction mixture is cooled and dissolved in a mixture of 150 parts of water and 6 parts of a hydrochloric acid solution 10 N. The solution is treated with activated charcoal. The latter is filtered off and the filtrate is alkalized with a sodium hydroxide solution 5 N. The product is extracted three times with dichloromethane. The combined extracts are dried, filtered and evaporated. The solid residue is stirred in 20 parts of ethanol. The product is filtered off and purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (97.5:2.5 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The solid residue is treated with 20 parts of ethanol. The product is filtered off, washed with a small amount of ethanol and dried, yielding 1.7 parts of 5- [4-(diphenylmethyl)-1-piperazinylmethyl]-1,3-dihydro-1-methyl-2H-benzimidazol-2-one; mp. 246° C.

reactant | 4-[4-(diphenylmethyl)-1-piperazinylmethyl]-N1 -methyl-1,2-benzenediamine | C1(=CC=CC=C1)C(N1CCN(CC1)CC=1C=C(C(=CC1)NC)N)C1=CC=CC=C1 | C25H30N4
reactant | urea | NC(=O)N | CH4N2O
reactant | charcoal | C | CH4
solvent | water | O | H2O
solvent | hydrochloric acid | 10 N | Cl | ClH
product | 5- [4-(diphenylmethyl)-1-piperazinylmethyl]-1,3-dihydro-1-methyl-2H-benzimidazol-2-one | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C(N2)=O)C)C=C1)C1=CC=CC=C1 | C26H28N4O
